US08455483B2
a) 3-(Carboxymethyl)-4-chlorobenzoic acid
Potassium hydroxide (1.55 g) in water (15 mL) was added to a suspension of 4-chloro-3-(cyanomethyl)benzoic acid [WO 2006040568] (2.07 g) in ethanol (15 mL) and the resulting solution was heated at reflux for 4 hours, then allowed to cool. The mixture was concentrated under reduced pressure to remove the ethanol and then diluted with water and washed twice with ethyl acetate. The organic phases were discarded, whilst the aqueous phase was acidified to pH 1 with concentrated hydrochloric acid and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulphate and concentrated under reduced pressure to afford the subtitled compound as a pale brown solid. Yield 2.06 g.

reactant | Potassium hydroxide | 1.55 g | [OH-].[K+]
reactant | 4-chloro-3-(cyanomethyl)benzoic acid | 2.07 g | ClC1=C(C=C(C(=O)O)C=C1)CC#N | C9H6ClNO2
reactant | water | 15 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(Carboxymethyl)-4-chlorobenzoic acid | C(=O)(O)CC=1C=C(C(=O)O)C=CC1Cl | C9H7ClO4
